CMOS Differential Pair
* Differential input pair
M1 out1 in1 tail vdd pmos W=30u L=1u
M2 out2 in2 tail vdd pmos W=30u L=1u
M3 tail bias 0 0 nmos W=60u L=2u
M4 out1 bias 0 0 nmos W=15u L=1u
M5 out2 bias 0 0 nmos W=15u L=1u
VDD vdd 0 DC 5V
VIN1 in1 0 DC 2.5V
VIN2 in2 0 DC 2.5V
VBIAS bias 0 DC 1.0V
.end