CMOS NOR Gate
* 2-Input NOR Gate
M1 n1 a vdd vdd pmos W=20u L=1u
M2 out b n1 vdd pmos W=20u L=1u
M3 out a 0 0 nmos W=10u L=1u
M4 out b 0 0 nmos W=10u L=1u
VDD vdd 0 DC 5V
VA a 0 DC 2.5V
VB b 0 DC 2.5V
.end